US05057612
Preparation of 1-chloro-2,2,5,5-tetramethylimidazolidin-4-one
14.2 Grams (0.1 mole) of 2,2,5,5-tetramethylimidazolidin-4-one prepared as in example 2 was dissolved in 100 milliliters of 1 Normal sodium hydroxide solution (0.1 mole) in a 250 milliliter flask. The flask containing the mixture was placed in an ice bath and maintained at or below 10° C. with stirring while chlorine gas was bubbled in until the pH reached 7.0. The product 1-chloro-2,2,5,5-tetramethylimidazolidin-4-one which precipitated as a white solid was recovered by suction filtration and was purified by recrystallization from an ether/hexane mixture. The product yield was 17.7 grams or 95% of that theoretically expected. The product had a melting point range of 157.0°-157.5° C. Analysis of the product by proton NMR and IR spectroscopy yielded the following results: 1H NMR (CDCl3) δ=1.32 (S,6H), δ=1.46 (S,6H), δ=7.57 (Broad,1H); IR (KBr) 1670, 1720, 3160 cm-1.

reactant | 2,2,5,5-tetramethylimidazolidin-4-one | 0.1 mole | CC1(NC(C(N1)=O)(C)C)C | C7H14N2O
reactant | sodium hydroxide | 0.1 mole | [OH-].[Na+]
reactant | chlorine | ClCl | Cl2
reactant | KBr | [K+].[Br-]
product | 1-chloro-2,2,5,5-tetramethylimidazolidin-4-one | ClN1C(NC(C1(C)C)=O)(C)C | C7H13ClN2O
